US05990108
The 2-(N,N-diformylglycyl)benzonitrile can be prepared in the following manner: 5.54 g of sodium diformylamide are added to a solution of 14.45 g of ethyl 2-bromoacetylbenzoate in 150 ml of acetonitrile and the mixture is stirred for 16 hours at boiling temperature and then, after cooling to 20° C., the insoluble matter produced is removed by filtration and the filtrate is concentrated to dryness under reduced pressure (15 mm Hg; 2 kPa) at 40° C. The residue is chromatographed on a neutral silica gel, eluting with a methylene chloride-ethyl acetate (80-20 by volume) mixture. 8.4 g of ethyl 2-(N,N-diformylglycyl)benzoate are thus obtained in the form of an orange-coloured oil [1H spectrum in DMSO-d6, T=300K, δ in ppm (300 MHz): 1.22 (3H, t, J=6 Hz, CH3), 4.23 (2H, q, J=6 Hz, OCH2), 4.90 (2H, s, NCH2CO), between 7.60 and 7.90 (4H, m, 4 arom. CH), 9.20 (2H, B, 2 CHO)].

reactant | 2-(N,N-diformylglycyl)benzonitrile | C(=O)N(CC(=O)C1=C(C#N)C=CC=C1)C=O | C11H8N2O3
reactant | sodium diformylamide | 5.54 g | C(=O)[N-]C=O.[Na+]
reactant | ethyl 2-bromoacetylbenzoate | 14.45 g | BrCC(=O)C1=C(C(=O)OCC)C=CC=C1 | C11H11BrO3
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | ethyl 2-(N,N-diformylglycyl)benzoate | 8.4 g | C(=O)N(CC(=O)C1=C(C(=O)OCC)C=CC=C1)C=O | C13H13NO5
